US04962161
1,3-bis(ortho-propenylphenoxy)propane is prepared in a procedure similar to Example I, except that 537 grams (4.0 moles) of propenyl phenol is employed along with 403 grams (1.98 moles) of 1,3-dibromo-propane to produce a reaction mixture extracted with methylene chloride and dried over magnesium sulfate, then vacuum distilled to give 311 grams (50% yield) of a solid with melting point 45°-48° C.

reactant | propenyl phenol | 4.0 moles, 537 grams | C(=CC)C1=C(C=CC=C1)O | C9H10O
reactant | 1,3-dibromo-propane | 1.98 moles, 403 grams | BrCCCBr | C3H6Br2
product | 1,3-bis(ortho-propenylphenoxy)propane | C(=CC)C1=C(OCCCOC2=C(C=CC=C2)C=CC)C=CC=C1 | C21H24O2
